US05399578
(S)-N-(1-Benzyloxycarbonyl-2-methyl-prop-1-yl)-N-[3-bromo-2'-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-N-pentanoyl-amine
A solution of 4.5 g (8 mmol) of N-[(3-bromo-2'-cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester and 3.4 g (10.4 mmol) of tributyltin azide in 50 ml of xylene is heated to boiling under reflux for 20 hours. Working-up analogously to Example 54 and "flash"-chromatographic purification (toluene-methanol 4:1 ) gives the title compound as a colourless foam (Rf 0.57, system A2).

reactant | N-[(3-bromo-2'-cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester | 8 mmol, 4.5 g | C(C1=CC=CC=C1)OC([C@@H](N(C(CCCC)=O)CC1=C(C=C(C=C1)C1=C(C=CC=C1)C#N)Br)C(C)C)=O | C31H33BrN2O3
reactant | tributyltin azide | 10.4 mmol, 3.4 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (S)-N-(1-Benzyloxycarbonyl-2-methyl-prop-1-yl)-N-[3-bromo-2'-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-N-pentanoyl-amine | C(C1=CC=CC=C1)OC(=O)[C@H](C(C)C)N(C(CCCC)=O)CC1=C(C=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)Br | C31H34BrN5O3
